US07557105B2
4-[(4-Methyl-1.4-dioxido-1-piperazinyl)-methyl]-N-{4-methyl-3-[[4-(3-pyridinyl)-2-pyrimidinyl]-amino]-phenyl}-benzamide
4-[(4-Methyl-1-piperazinyl)-methyl]-N-{4-methyl-3-[[4-(3-pyridinyl)-2-pyrimidinyl]-amino]-phenyl}-benzamide monomethanesulphonate (3.00 g, 5 mmol; prepared as described in WO 99/03854) is added to aqueous hydrogen peroxide (30 mL of 3%) and the resulting solution is stirred at 20° C. for 160 h. The pH of the solution is then adjusted to pH 14 with aqueous sodium hydroxide (4 M) and the resulting suspension is stirred for 1.5 h. The crude product is filtered off, washed with water, dried and purified by column chromatography on silica gel, eluent 25% aqueous ammonia-ethanol-dichloromethane (5:30:70), to give the title compound as a yellow crystalline solid, m.p. 242-244° C.

reactant | 4-[(4-Methyl-1-piperazinyl)-methyl]-N-{4-methyl-3-[[4-(3-pyridinyl)-2-pyrimidinyl]-amino]-phenyl}-benzamide monomethanesulphonate | 5 mmol, 3.00 g | CS(=O)(=O)O.CN1CCN(CC1)CC1=CC=C(C(=O)NC2=CC(=C(C=C2)C)NC2=NC=CC(=N2)C=2C=NC=CC2)C=C1
reactant | sodium hydroxide | 4 M | [OH-].[Na+]
solvent | hydrogen peroxide | 30 mL | OO | H2O2
product | 4-[(4-Methyl-1.4-dioxido-1-piperazinyl)-methyl]-N-{4-methyl-3-[[4-(3-pyridinyl)-2-pyrimidinyl]-amino]-phenyl}-benzamide | C[N+]1(CC[N+](CC1)([O-])CC1=CC=C(C(=O)NC2=CC(=C(C=C2)C)NC2=NC=CC(=N2)C=2C=NC=CC2)C=C1)[O-] | C29H31N7O3
